US08492352B2
Triethylamine (0.63 ml, 4.52 mmol) is added to a solution of 6-(benzyloxycarbonylamino)hexanoic acid (1.00 g, 3.77 mmol) in dimethylformamide (20 ml) and the mixture is left to stir at ambient temperature and under argon for 30 minutes. The solution is cooled to 0° C. and ethyl chloroformate (0.43 ml, 4.52 mmol) is added dropwise. After two hours at ambient temperature, N-hydroxysuccinimide (0.52 g, 4.52 mmol) is added and the mixture is left to stir overnight at ambient temperature. The mixture is evaporated to dryness before taking up the residue in water to which ethyl acetate is added. The phases are separated and the aqueous phase is extracted with ethyl acetate. The organic phases are combined, dried over sodium sulfate, filtered and evaporated to dryness before purification on a silica gel column with an ethyl acetate/pentane mixture (75/25 v/v) as eluent. The fractions, once evaporated, give 1.13 g of succinimidyl 6(benzyloxycarbonylamino)hexanoate in the form of an oil.

reactant | Triethylamine | 4.52 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(benzyloxycarbonylamino)hexanoic acid | 3.77 mmol, 1.00 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)O | C14H19NO4
reactant | ethyl chloroformate | 4.52 mmol, 0.43 ml | ClC(=O)OCC | C3H5ClO2
reactant | N-hydroxysuccinimide | 4.52 mmol, 0.52 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | succinimidyl 6(benzyloxycarbonylamino)hexanoate | 1.13 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)ON1C(CCC1=O)=O | C18H22N2O6
